US09145409B2
Step 2: S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-methoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (I-1/H)
(S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (2 g, 5.46 mmol) was dissolved in DMF (16 mL) then K2CO3 (2 g, 14.47 mmol) and iodomethane (1.72 g, 12.12 mmol) were added and the mixture was stirred at r.t, for 4 h. The mixture was poured into 200 mL of water, filtered, washed with water and dried under vacuum at 40° C. 1.98 g of whitish solid was obtained.

reactant | (S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | 5.46 mmol, 2 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)O)Cl)[O-] | C14H11Cl2F2NO4
reactant | K2CO3 | 14.47 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 12.12 mmol, 1.72 g | IC | CH3I
reactant | water | 200 mL | O | H2O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-methoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | 1.98 g | ClC=1C=[N+](C=C(C1CC(O)C1=CC(=C(C=C1)OC(F)F)OC)Cl)[O-] | C15H13Cl2F2NO4
